US06197729B1
b) 4-(2,2,2-trifluoroethyl)cyclohexanone
At atmospheric pressure, 22.0 g of 8-(2,2,2-trifluoroethylidene)-1,4-dioxaspiro[4.5]decane in 250 ml of ethanol were hydrogenated in the presence of palladium on carbon as catalyst until no further uptake of hydrogen was visible. The catalyst was subsequently filtered off and the filtrate was concentrated. The residue was taken up in 170 ml of formic acid and stirred at 20° C. to 25° C. for 4 h. The reaction solution was poured into water, adjusted to pH 8 with potassium carbonate and extracted with methylene chloride. The combined organic phases were dried with magnesium sulfate and concentrated to give the title product as a colourless oil which was reacted further without any purification.

reactant | 8-(2,2,2-trifluoroethylidene)-1,4-dioxaspiro[4.5]decane | 22.0 g | FC(C=C1CCC2(OCCO2)CC1)(F)F | C10H13F3O2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 250 ml | C(C)O | C2H6O
catalyst | palladium on carbon | [Pd] | Pd
product | 4-(2,2,2-trifluoroethyl)cyclohexanone | FC(CC1CCC(CC1)=O)(F)F | C8H11F3O
